US04503252
B. 1,3-dihydroxy-2-(2',3'-dihydroxypropyl)-amino-propane
1,3-dimethoxy-2-(2',3'-dihydroxypropyl)-amino-propane (96.6 g, 0.5 moles) in 1000 ml of 20% hydrochloric acid is refluxed for 65 hours and subsequently worked up according to the method described in Example 2 B. The readily water soluble 1,3-dihydroxy-2-(2',3'-dihydroxypropyl)-amino-propane, which boils at about 155° C. at 0.05 torr, is obtained in a yield of 64.4 g, corresponding to 78% of the theoretical.

reactant | 1,3-dimethoxy-2-(2',3'-dihydroxypropyl)-amino-propane | 0.5 moles, 96.6 g | COC(C(COC)CC(CO)O)N | C8H19NO4
reactant | water | O | H2O
solvent | hydrochloric acid | 1000 ml | Cl | ClH
product | 1,3-dihydroxy-2-(2',3'-dihydroxypropyl)-amino-propane | OC(C(CO)CC(CO)O)N | C6H15NO4
